US09284333B2
7-Chloro-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide (Comp. No. 16rw)
The compound was prepared from 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide (Comp. No. 16a) and N-chloro-succinimide in analogy to the synthesis of comp. no. 16ru. LC/MS (method 3): Rt=1.86 min; m/z=430.22 (M+H+).

reactant | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C | C23H29N3O3
reactant | N-chloro-succinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 7-Chloro-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C(=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C)Cl | C23H28ClN3O3
